US09293712B2
4-Cyclohexyldibenzo[b,d]furan (11.3 g, 45.0 mmol) and THF (1000 mL) were cooled down to −90° C. After that, n-BuLi (56.2 mL, 90.0 mmol, 1.6 M in THF) was added at −90° C. The mixture was stirred for 6 h and allowed to warm from −90° C. to room temperature. The mixture was then cooled to −90° C., and iodine (22.9 g, 90.0 mmol) was added at −90° C. The resultant mixture was stirred for 17 h and allowed to warm from −90° C. to room temperature. The reaction mixture was then quenched by the addition of saturated Na2S2O3 solution and extracted with DCM. The extracts were dried over MgSO4 and the solvent was removed in vacuo. The residue was purified by flash chromatography using 5% DCM/hexane to yield 4-cyclohexyl-6-iododibenzo[b,d]furan (9.8 g, 58% yield) as a white solid.

reactant | 4-Cyclohexyldibenzo[b,d]furan | 45.0 mmol, 11.3 g | C1(CCCCC1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C18H18O
reactant | n-BuLi | 90.0 mmol, 1.6 M, 56.2 mL | [Li]CCCC
reactant | iodine | 90.0 mmol, 22.9 g | II | I2
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
product | 4-cyclohexyl-6-iododibenzo[b,d]furan | 9.8 g, 58% yield | C1(CCCCC1)C1=CC=CC2=C1OC1=C2C=CC=C1I | C18H17IO
